US07557114B2
(b) (4-Fluoro-2-hydroxymethyl-5-trifluoromethyl-phenyl)-methanol
To 23.6 mmol LiAlH4 in 10 ml THF was added dropwise over 5 min a solution of 3.93 mmol 4-fluoro-5-trifluoromethyl-phthalic acid dimethyl ester in 5 ml THF. The mixture was stirred at room temperature for 2 h, and then heated at 50° C. for 20 min. The reaction mixture was quenched by dropwise addition of 8 ml ethyl acetate, stirred for a further 15 min at 50° C., then cooled to room temperature and acidified to pH 1 by dropwise addition of 5 M aq HCl. The mixture was then partitioned between ethyl acetate and brine and the organic phase was then separated, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: methanol/dichloromethane) to afford the title compound as a colourless oil (57% yield). MS (m/e): 283.1 ([M+OAc)]−, 100%), 223.1 ([M−H]−, 20%).

reactant | LiAlH4 | 23.6 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-fluoro-5-trifluoromethyl-phthalic acid dimethyl ester | 3.93 mmol | COC(C=1C(C(=O)OC)=CC(=C(C1)C(F)(F)F)F)=O | C11H8F4O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-Fluoro-2-hydroxymethyl-5-trifluoromethyl-phenyl)-methanol | 57% yield | FC1=CC(=C(C=C1C(F)(F)F)CO)CO | C9H8F4O2
